US07985769B2
To a solution of 3-Bromo-5-phenyl-thiophene-2-carboxylic acid methyl ester (250 mg, 0.89 mmol) in toluene (25 ml) was added cyclopropylamine (57 mg, 1.0 mmol), cesium carbonate (382 mg, 1.2 mmol), BINAP (50 mg, 0.08 mmol) and tris (dibenzyli-denacetone)dipaladium (0) (38 mg, 0.04 mmol). The reaction mixture was stirred for 16 h at 110° C. in a sealed tube. The mixture was partitioned between toluene (20 mL) and water (20 mL) and the organic layer was separated. The aqueous phase was washed twice with toluene (2×10 mL) and the combined toluene layer was dried (MgSO4), concentrated and the residue was purified by preparative chromatography (10% EtOAc/Hexane) to obtain 52 mg (22%) of 3-Cyclopropylamino-5-phenyl-thiophene-2-carboxylic acid methyl ester. NMR 1H (CDCl3, 400 MHz): 7.67-7.62 ppm (m, 2H, Haro); 7.43-7.32 ppm (m, 3H, Haro); 7.16 ppm (s, 1H, Haro); 3.82 ppm (S, 3H); 2.65 ppm (m, 1H); 0.62 ppm (m, 2H); 0.35 ppm (m, 2H).

reactant | 3-Bromo-5-phenyl-thiophene-2-carboxylic acid methyl ester | 0.89 mmol, 250 mg | COC(=O)C=1SC(=CC1Br)C1=CC=CC=C1 | C12H9BrO2S
reactant | cyclopropylamine | 1.0 mmol, 57 mg | C1(CC1)N | C3H7N
reactant | cesium carbonate | 1.2 mmol, 382 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | BINAP | 0.08 mmol, 50 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Cyclopropylamino-5-phenyl-thiophene-2-carboxylic acid methyl ester | 52 mg, 22% | COC(=O)C=1SC(=CC1NC1CC1)C1=CC=CC=C1 | C15H15NO2S
